US07923450B2
b) 3-Methyl-4-(4-methyl-imidazol-1-yl)-phenylamine
A mixture of 4-methyl-1-(2-methyl-4-nitro-phenyl)-1H-imidazole (1.26 g, 5.8 mmol) and of stannous chloride dehydrate (6.81 g, 30.2 mmol) in ethyl acetate (40 mL) and ethanol (20 mL) was stirred for 1 hour at 70° C. The reaction mixture was quenched by addition of water, neutralized with sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the crude title compound (1.08 g, 99%) as a yellowish gum. MS ISP (m/e): 188.4 (100) [(M+H)+].

reactant | 4-methyl-1-(2-methyl-4-nitro-phenyl)-1H-imidazole | 5.8 mmol, 1.26 g | CC=1N=CN(C1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C11H11N3O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Methyl-4-(4-methyl-imidazol-1-yl)-phenylamine | 1.08 g, 99% | CC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3
